Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
invasive melanoma of
the left lower extremity
 
Major Surgical or Invasive Procedure:
WIDE LOCAL EXCISION SHIN LEFT LEG; SKIN GRAFT SPLIT THICKNESS TO 
LEFT SHIN; LEFT FEMORAL SENTINEL LYMPH NODE BIOPSY 

 
History of Present Illness:
___ states that he became aware of a left shin
pigmented lesion ___ years ago after traumatizing the general area
but it is not clear what the actual duration of the lesion has
been.  He denied bleeding or pruritus.  Your examination
described a 2 cm blue-brown plaque as well as verrucous lesions
of the chest, seborrheic keratoses, and scattered benign nevi.  
A
shave biopsy was performed.

The pathology, as reviewed today with our dedicated
dermatopathology group, shows an invasive melanoma of the left
shin with a minimal depth of 2.3 mm extending to ___ level IV
with both the lateral and deep margins involved with tumor.  It
is of nevoid morphology and without any clear-cut ulceration. 
There is tumor either in the periphery of small caliber nerves 
or
potentially within a small lymphatic channel, it cannot be
determined clearly.  He has no clear-cut perineural or
lymphovascular invasion.  Two mitoses were present per 
millimeter
squared.  The lesion was positive for Melan-A and HMB-45. 
Therefore he has a minimal T3a melanoma.

His past medical history is significant for the recent diagnosis
of prostate cancer.  He was found to have an elevated PSA and on
___ had a single core biopsy showing 
adenocarcinoma.
He is now under active surveillance within the PASS study. 
___
has significant symptoms of prostatism with nocturia, hesitancy,
and urgency.  He recently was placed on Flomax which has 
improved
matters.  

He otherwise suffers from mild hypercholesterolemia, left-sided
tinnitus, and has a remote history of a presumed benign "bone
tumor" excised from the left tibia decades ago.

___ only prior surgery was a ___ excision of the left
proximal tibia at the ___ in ___ for what
he describes as a "golf ball" sized lesion.  I named several
benign bone neoplasms but he did not recognize any of them.  He
has had no other operations.

 
Past Medical History:
prostate cancer, HLD, melanoma, tinnitus, "benign bone tumor"
 
Social History:
___
Family History:
___ family history is significant for his father who had
prostate cancer and then apparently late in life developed
melanoma and after one and half years ___ have died from
metastatic disease at age ___.  The mother had ovarian cancer. 
His sister ___ have had cervical cancer or perhaps dysplasia. 
The paternal grandfather had laryngeal cancer but was a heavy
smoker.  There are no other family members that he is aware of
with cancer.  His brother apparently has situs inversus.

 
Physical Exam:
P/E:
VS: ___ 0052 BP: 100/59 HR: 42 O2 sat: 98% O2 delivery: RA
Pain Score: ___ 
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: LLE with ace wrap in place. SLNBx site CDI
 
Brief Hospital Course:
The patient presented to pre-op on ___. The patient 
underwent a wide local excision on the shin of his left leg for 
a known melanoma lesion, a split thickness skin graft and a left 
femoral sentinel lymph node biopsy. He tolerated the procedure 
well. 

Neuro: The patient was alert and oriented after the procedure. 
His pain was well controlled in the pacu

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored.  

GI/GU/FEN: After the procedure, the patients diet was advanced 
as tolerated. The patient had nausea and several episodes of 
vomiting that was attributed to the anesthesia he received for 
the procedure. For this reason, the decision was made to admit 
him overnight for observation to make sure he stayed adequately 
hydrated. On POD 1 the patients nausea had subsided and he was 
tolerating a regular diet. 

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

Surgical sites: On post op day 1, the patients gauze covering 
her donor site for his skin graft was saturated. As such, it was 
taken down, redressed, and reinforced with sterile tape. There 
was only minimal bleed through after the dressing was reinforced 
and the patient was provided with detailed instructions should 
the dressing become saturated again. The other surgical sites 
remained c/d/I and he was discharged with the original dressings 
that were placed on the day of surgery by the attending surgeon. 


At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list ___ be inaccurate and requires 
futher investigation.
1. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN Pain - Moderate 
___ tablets   
3.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Melanoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for observation following your 
procedure with Dr. ___. You are now ready to continue your 
recovery at home. Please follow the instructions below: 

Call Dr. ___ ___ if you have any questions or 
page him after hours at ___ for any urgent concerns.

Do not drive while taking narcotic pain medications. Use 
narcotic pain medications as directed and minimally, only as 
needed for pain not controlled by Tylenol and ibuprofen. 

Do not exceed 4000 mg (4 g) of Tylenol in 24 hours. You ___ take 
400-800 mg of ibuprofen every ___ hours as needed for mild 
pain. 

Do not remove your dressing until your follow up visit. If thigh 
"donor" site dressing becomes soiled or dislodged, reinforce 
with gauze and tape and call Dr. ___. 

No showers.

Stay off affected leg except for short distances. Stairs are 
okay.

You ___ go back to your usual diet.

Call Dr. ___ you have a temperature of ___ F or greater, 
nausea and vomiting that lasts greater than 24 hours, pain 
getting worse, or not getting better by pain medicine, chills, 
increasing drowsiness, rash/itching/hives, leg swelling, cannot 
urinate, bright red blood or foul smelling dishcharge from 
wound.

**Dr. ___ will call you regarding your pathology
Please call ___ at ___ to make an appointment for Dr. 
___ ___ floor, Surgical Specialties 
for ___. 
 
Followup Instructions:
___